US04036849
Preparation of 1-[p-(dimethylaminomethylthio)phenyl]-1H-tetrazole (J)
To 1.0 ml. (10 mmol) of formalin at 0°-5° C. was added dropwise, with stirring, 1.1 ml. (10 mmol) of dimethylamine. After 20 minutes stirring, 1.78 g. (10 mmol) of p-(1H-tetrazol-1-yl)benzenethiol was added all at once followed by solid sodium carbonate. The mixture was stoppered, stirred vigorously for 11/2 hours, and dichloromethane added. The dichloromethane layer was washed with water, dried, and evaporated to give white crystals, m.p. 56°-57.5° C.

reactant | formalin | 10 mmol | C=O | CH2O
reactant | dimethylamine | 10 mmol | CNC | C2H7N
reactant | p-(1H-tetrazol-1-yl)benzenethiol | 10 mmol | N1(N=NN=C1)C1=CC=C(C=C1)S | C7H6N4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[p-(dimethylaminomethylthio)phenyl]-1H-tetrazole | CN(C)CSC1=CC=C(C=C1)N1N=NN=C1 | C10H13N5S
